US04210758
1,5-dihydro-4-methyl-1,5-dioxo-N-1H-tetrazol-5-yl-4H-[1]benzopyrano[3,4-b]pyridine-2-carboxamide
Prepared by the method described for Ex. 17 from 1,5-dihydro-4-methyl-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-2-carboxylic acid (5.42 g, 0.02 mole), 1,1'-carbonyldiimidazole (6.48 g, 0.04 mole) and 5-aminotetrazole monohydrate (2.06 g, 0.02 mole) in dimethylformamide (90 ml). Recrystallization from dimethylformamide gives pale yellow crystals (6.4 g, 95%), m.p. above 300.

reactant | 1,5-dihydro-4-methyl-1,5-dioxo-4H-1-benzopyrano[3,4-b]pyridine-2-carboxylic acid | 0.02 mole, 5.42 g | CN1C2=C(C(C(=C1)C(=O)O)=O)C1=C(OC2=O)C=CC=C1 | C14H9NO5
reactant | 1,1'-carbonyldiimidazole | 0.04 mole, 6.48 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole monohydrate | 0.02 mole, 2.06 g | O.NC1=NN=NN1
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 1,5-dihydro-4-methyl-1,5-dioxo-N-1H-tetrazol-5-yl-4H-[1]benzopyrano[3,4-b]pyridine-2-carboxamide | 6.4 g, 95% | CN1C2=C(C(C(=C1)C(=O)NC1=NN=NN1)=O)C1=C(OC2=O)C=CC=C1 | C15H10N6O4
